US04226738
Preparation of N,N'-Bis(2-methoxyethyl)-N,N'-Bis(trifluoromethylsulfonyl)Oxamide
Oxalyl chloride (1.27 grams; 0.01 mole) is added portionwise to a stirred solution of N-(2-methoxyethyl)trifluoromethanesulfonamide (4.0 grams; 0.02 mole) and triethylamine (2.0 grams; 0.02 mole) in 1,2-dimethoxyethane (40 mls) at 0° C. under a nitrogen atmosphere. After the addition is completed, the reaction mixture is stirred at 0° C. for one hour, heated to 50° C. and stirred thereat for 2 hours, and concentrated to remove the solvent. The residue is then extracted with diethyl ether and the ether extract is evaporated to obtain 4.65 grams (99% of theoretical) of crude product.

reactant | Oxalyl chloride | 0.01 mole, 1.27 grams | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(2-methoxyethyl)trifluoromethanesulfonamide | 0.02 mole, 4.0 grams | COCCNS(=O)(=O)C(F)(F)F | C4H8F3NO3S
reactant | triethylamine | 0.02 mole, 2.0 grams | C(C)N(CC)CC | C6H15N
reactant | 1,2-dimethoxyethane | 40 mls | COCCOC | C4H10O2
product | N,N'-Bis(2-methoxyethyl)-N,N'-Bis(trifluoromethylsulfonyl)Oxamide | COCCN(C(=O)C(=O)N(S(=O)(=O)C(F)(F)F)CCOC)S(=O)(=O)C(F)(F)F | C10H14F6N2O8S2
